US05686424
Using the procedure described in Example 5, a solution of L-proline-L-isoleucine benzylamide (160 mg, 0.50 mmol), and triethylamine (352 uL, 2.53 mmol, 5.0 eq), in THF (2 mL), was treated with 232 mg (1.0 mmol) of 1-chloro-2-(4-pentylcyclohexyl)-2-oxoethane (prepared from trans-4-pentylcyclohexanecarboxylic acid using the procedure described in example 1) to provide 154 mg, (25%) of L-isoleucine, N-[1-(2-(4-pentylycyclohexyl)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.50 mmol, 160 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 2.53 mmol, 352 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-(4-pentylcyclohexyl)-2-oxoethane | 1.0 mmol, 232 mg | ClCC(=O)C1CCC(CC1)CCCCC | C13H23ClO
reactant | trans-4-pentylcyclohexanecarboxylic acid | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | L-isoleucine | 25% | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
